US04110116
2,6-dimethyl-5,7-dichloro-benzoxazole
A mixture of 79 g. of 2-acetylamino-5-methyl-4,6-di-chloro-phenol and 3.6 g. of anhydrous sodium acetate was heated at 180° C. for some minutes. The liquid obtained was distilled under vacuum, collecting the fraction passed from 140° C. to 145° C. at 1.2 mm. Hg. The distilled oil became a mass of crystals which was purified by crystallization from ligroin. 36 g. of pure base were obtained. M.P. = 80°-82° C.

reactant | 2-acetylamino-5-methyl-4,6-di-chloro-phenol | C(C)(=O)NC1=C(C(=C(C(=C1)Cl)C)Cl)O | C9H9Cl2NO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 2,6-dimethyl-5,7-dichloro-benzoxazole | CC=1OC2=C(N1)C=C(C(=C2Cl)C)Cl | C9H7Cl2NO
